US08686150B2
(c) {1-[6-(4-Benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-4-phenyl-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of 6-(4-benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (384 mg), (4-phenylpiperidin-4-yl)-carbamic acid tert-butyl ester (230 mg), DIPEA (427 μL) and BEP (456 mg) in dichloromethane (10 mL) was stirred at r.t. for 5 d. The solvent was distilled off in vacuo, the residue was re-dissolved in MTBE/ethyl acetate (v/v=1/1, 40 mL) and washed once with water, twice with saturated sodium bicarbonate solution, once with 1N sodium hydroxide solution and with brine. After evaporation of the solvents, the residue was purified by flash chromatography (silica, heptane/ethyl acetate gradient) giving 95 mg (16%) of the title compound.

reactant | 6-(4-benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 384 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C=1C=C(C2=C(N1)N(N=C2C)C2OCCCC2)C(=O)O)F | C26H24FN3O4
reactant | (4-phenylpiperidin-4-yl)-carbamic acid tert-butyl ester | 230 mg | C(C)(C)(C)OC(NC1(CCNCC1)C1=CC=CC=C1)=O | C16H24N2O2
reactant | DIPEA | 427 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | {1-[6-(4-Benzyloxy-2-fluoro-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-4-phenyl-piperidin-4-yl}-carbamic acid tert-butyl ester | 95 mg, 16% | C(C)(C)(C)OC(NC1(CCN(CC1)C(=O)C=1C2=C(N=C(C1)C1=C(C=C(C=C1)OCC1=CC=CC=C1)F)N(N=C2C)C2OCCCC2)C2=CC=CC=C2)=O | C42H46FN5O5
